US07041668B2
To a solution of 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 3,4-diamino-phenyl ester (648 mg) in acetic acid (4.5 ml) and methanol (40 ml) at 80° C. was added 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (580 mg). The reaction mixture was refluxed for 4 hours then allowed to cool to ambient temperature and stirred at this temperature for 14 hours. The resultant precipitate was filtered, washed with diethyl ether and dried under vacuum to afford 4-(cyclopropylmethyl-amino)-benzene sulfonic acid 2-methoxycarbonylamino-1H-benzoimidazol-5-yl ester (378 mg) as a beige solid. Mass spectrum: 417 [M+H]+; retention time=13.16 minutes.

reactant | 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 3,4-diamino-phenyl ester | 648 mg | NC=1C=C(C=CC1N)OS(=O)(=O)C1=CC=C(C=C1)NCC1CC1 | C16H19N3O3S
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 580 mg | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
product | 4-(cyclopropylmethyl-amino)-benzene sulfonic acid 2-methoxycarbonylamino-1H-benzoimidazol-5-yl ester | 378 mg | COC(=O)NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCC2CC2 | C19H20N4O5S
